* C:\Users\Vikra\AppData\Local\LTspice\Draft7.asc
M4 S4 D3 Vout Vout PMOS
M3 S4 D3 D3 D3 PMOS
M1 D3 Vin1 N001 N001 NMOS
M2 Vout Vin2 N001 N001 NMOS
VDD S4 0 5
M5 N001 Vb 0 0 NMOS
V1 Vin1 Vin2 1
V3 Vb 0 2.5
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Vikra\AppData\Local\LTspice\lib\cmp\standard.mos
.tran .5
.backanno
.end
